US06277849B1
3.4 g of (2S,3S)-2-amino-3-methyl-valeric acid N-{2-[3-methoxy-4-(naphthalen-1-ylmethoxy)-phenyl]-ethyl}-amide and 1.2 ml of triethylamine are placed in 50 ml of dioxane at room temperature. 1.0 ml of n-butylsulfonyl chloride is added thereto. Stirring is carried out for 16 hours. The reaction mixture is introduced into 200 ml of water. Extraction is carried out twice using 200 ml of ethyl acetate each time. The organic phases are washed once with 200 ml of saturated sodium chloride solution, combined, dried over magnesium sulfate and concentrated, yielding (2S,3S)-2-(butylsulfonyl-amino)-3-methyl-valeric acid N-{2-[3-methoxy-4-(naphthalen-1-ylmethoxy)-phenyl]ethyl}-amide, which can be purified by chromatography on silica gel with ethyl acetatein-hexane =1:1, in the form of an oil.

reactant | (2S,3S)-2-amino-3-methyl-valeric acid N-{2-[3-methoxy-4-(naphthalen-1-ylmethoxy)-phenyl]-ethyl}-amide | 3.4 g | COC=1C=C(C=CC1OCC1=CC=CC2=CC=CC=C12)CCNC([C@H]([C@H](CC)C)N)=O | C26H32N2O3
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | n-butylsulfonyl chloride | 1.0 ml | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
reactant | water | 200 ml | O | H2O
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | (2S,3S)-2-(butylsulfonyl-amino)-3-methyl-valeric acid N-{2-[3-methoxy-4-(naphthalen-1-ylmethoxy)-phenyl]ethyl}-amide | COC=1C=C(C=CC1OCC1=CC=CC2=CC=CC=C12)CCNC([C@H]([C@H](CC)C)NS(=O)(=O)CCCC)=O | C30H40N2O5S
